* Z:\mnt\spice-netlists\LT3507.asc
XU1 N001 IN MP_01 N023 N025 N026 N008 N013 N005 N011 N012 N024 N028 IN IN IN OUT2 N027 N022 N019 N014 N006 N009 N016 N018 N020 N002 N004 MP_02 IN MP_03 N015 N017 MP_04 IN MP_05 N003 MP_06 0 LT3507
L1 N003 OUT1 4.7µ
C1 N001 N003 .22µ
R1 OUT1 N005 18.7K
R2 N005 0 15K
D1 0 N003 MBRS340
C2 N007 0 680p
C3 OUT1 0 100µ
C4 N013 0 500p
L2 N004 OUT2 10µ
C5 N004 N002 .22µ
R3 OUT2 N006 35.7K
R4 N006 0 11.5K
D2 0 N004 MBRS340
C6 N010 0 1000p
C7 OUT2 0 22µ
C8 N014 0 500p
R5 N028 0 107K
R6 N023 N025 100K
R7 N025 0 3.32K
R8 N023 N026 49.9K
R9 N026 0 18.7K
L3 N017 OUT3 15µ
C9 N017 N015 .22µ
R10 OUT3 N019 53.6K
R11 N019 0 10.2K
D3 0 N017 MBRS340
C10 N021 0 680p
C11 OUT3 0 22µ
C12 N027 0 500p
V1 IN 0 12
Q1 OUT2 N016 OUT4 0 2N2219A
R12 OUT4 N018 24.3K
R13 N018 0 11.5K
C13 N020 0 500p
C14 OUT4 0 2.2µ
D4 OUT3 N001 PMEG4005AEA
D5 OUT3 N002 PMEG4005AEA
D6 OUT3 N015 PMEG4005AEA
R14 N008 N007 18.7K
R15 N022 N021 24.3K
R16 N009 N010 16.2K
Rload1 OUT1 0 .75
Rload2 OUT2 0 2.54
Rload3 OUT3 0 3.33
Rload4 OUT4 0 12.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 500u startup
* LT3507 - Triple Monolithic Step-down Regulator with LDO in QFN-38 \nInput: 12V    Outputs: 1.8V@2.4A, 3.3V@1.5A, 5V@1.3A and 2.5V@0.2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT3507.sub
.backanno
.end
