* Z:\mnt\spice-netlists\LT3508.asc
R1 N008 N007 43K
R2 N009 N010 51K
R3 N014 0 52.3K
R4 5V N005 56.2K
R5 N005 0 10.7K
R6 3.3V N006 35.7K
R7 N006 0 11.5K
C1 IN 0 4.7µ
C2 N001 N003 .22µ
C3 N002 N004 .22µ
C4 5V 0 10µ
C5 N007 0 100p
C6 N010 0 150p
C7 N013 0 1000p
L1 N003 5V 10µ
L2 N004 3.3V 6.8µ
V1 IN 0 12
D1 5V N001 1N4148
D2 3.3V N002 1N4148
D3 0 N003 1N5819
D4 0 N004 1N5819
R8 5V N011 100K
C8 N012 0 2200p
C9 3.3V 0 22µ
XU1 N002 IN N004 IN N014 N003 0 N001 N005 N008 N011 N012 N013 N008 N009 N006 IN LT3508
Rload1 3.3V 0 2.35
Rload2 5V 0 3.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.6m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
* LT3508 - Dual Monolithic 1.4A Step-Down Switching Regulator\nInput: 12V   Outputs: 3.3V@1.4A and 5V@1.4A
.lib LT3508.sub
.backanno
.end
