* Z:\mnt\spice-netlists\LT3570.asc
V1 IN 0 5
L1 IN N004 6.8µ
D1 N004 OUT1 1N5817
R1 OUT1 N006 143K
R2 N006 0 10K
C1 OUT1 0 10µ
C2 N008 0 .001µ
C3 N010 0 .001µ
R3 N012 0 15.8K
D2 OUT2 N001 CMDSH2-3
D3 0 N002 B520C
L2 N002 OUT2 3.3µ
C4 N001 N002 .1µ
R4 OUT2 N003 32.4K
R5 N003 0 10.2K
C5 N005 0 .001µ
C6 N007 0 .001µ
C7 OUT2 0 22µ
Q1 OUT2 N009 OUT3 0 2N3391A
R6 OUT3 N011 22.1k
R7 N011 0 10.2K
C8 OUT3 0 2.2µ
Rload1 OUT1 0 30
Rload2 OUT2 0 3.3
Rload3 OUT3 0 25
XU2 IN MP_01 N002 N004 0 MP_02 IN N008 N010 N006 IN IN IN MP_03 N012 MP_04 N005 N007 N003 N011 N009 IN MP_05 N001 LT3570
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 500u startup
* LT3570, 1.5A Buck, 1.5A Boost and LDO DC/DC Converter\nInput: 5V       Outputs: 3.3V @ 1A, 12V @ 400mA, 2.5V @ 100mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3570.sub
.backanno
.end
