* Z:\mnt\spice-netlists\LT3573.asc
XU1 0 MP_01 MP_02 N003 IN N011 N004 MP_03 MP_04 N012 N007 N010 N005 N008 N006 LT3573
R1 N007 0 10K
R2 N006 0 28.7K
V1 IN 0 24
C1 N010 N009 .001µ
C2 0 N011 4.7µ
R3 N003 N005 80.6K
R4 0 N008 6.04K
L1 IN N003 24µ
L2 0 N001 2.6µ
C3 OUT 0 47µ
D1 N001 OUT MBRS340
R5 N009 0 50K
C4 0 N012 .001µ
R6 IN N004 357K
R7 N004 0 51.1K
R8 IN N002 2K
C5 IN N002 .22µ
D2 N003 N002 PMEG6010AED
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 .995
.tran 1m startup
* LT3573 - Isolated Flyback Converter Without an Opto-Coupler \nInput: 24V       Output: 5V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3573.sub
.backanno
.end
