* Z:\mnt\spice-netlists\LT3580.asc
XU1 N003 N005 IN N001 IN N004 N002 MP_01 0 LT3580
L1 IN N001 6.8µ
D1 N001 OUT DFLS220L
C1 IN 0 4.7µ
R1 N004 0 84.5K
C2 N002 0 .001µ
V1 IN 0 3
R2 OUT N003 130K
R3 N006 N005 20K
C3 0 N006 .001µ
C4 OUT 0 10µ
Rload OUT 0 40
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT3580 - 42V, 2A, Adjustable Switching Frequency Boost Regulator in 3×3 DFN\nInput: 3V to 10V       Output: 12V @ 300mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT3580.sub
.backanno
.end
