* Z:\mnt\spice-netlists\LT3598.asc
XU1 N008 N010 N012 N014 N016 N019 MP_01 N015 N011 N018 N005 N013 MP_02 MP_03 N006 N007 N020 N009 MP_04 N001 N001 N002 N003 N004 0 LT3598
L1 N001 N002 10µ
D1 N002 N003 MBRS140
R1 N007 0 51.1K
R2 N004 N005 1Meg
R3 N005 0 30.9K
D3 N003 N010 NSCW100 N=10
D4 N003 N012 NSCW100 N=10
D5 N003 N014 NSCW100 N=10
D6 N003 N016 NSCW100 N=10
D7 N003 N019 NSCW100 N=10
C1 N020 0 .001µ
R4 N009 N011 10K
R7 N017 0 2.61K
V1 N001 0 12
R8 N015 0 14.7K
C2 N003 0 4.7µ
C3 N018 N017 .015µ
R6 N009 N013 64.4K
R9 N013 0 100K
V2 N006 0 PULSE(3.3 0 2m 10n 10n .5m 1m)
C4 N001 0 2.2µ
D2 N003 N008 NSCW100 N=10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
* LT3598 - 6-String 30mA LED Driver with 1.5% Current Matching \nInput: 12V       Output: 6-Strings of 10 LEDs, 20mA per String
.lib LT3598.sub
.backanno
.end
