* Z:\mnt\spice-netlists\LT3682.asc
L1 N003 OUT 10µ
D1 N005 N003 1N5819
C1 OUT 0 10µ
V1 IN 0 12
R1 OUT N008 536K
R2 N008 0 102K
C2 N002 N003 .22µ
C3 N006 0 470p
R3 N007 N006 16.2K
R4 N004 0 40.2K
R5 IN N001 100K
C4 N001 0 0.068µ
XU1 N007 N008 NC_01 0 OUT N002 N005 N003 N001 N004 MP_02 IN LT3682
Rload OUT 0 5
C5 IN 0 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
* LT3682 - 1A µPower Step-Down Switching Regulator\nInput:  6.9V - 36V(Transients to 60V)   Output: 5V @ 1A
* 800kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3682.sub
.backanno
.end
